### PR TITLE
feat(Analysis/Normed/Group/Pointwise): diameter of pointwise inversion, multiplication, and division

### PR DESCRIPTION
**Pull request by arihallak**
This PR adds API lemmas for extended and real diameters (`EMetric.ediam` and `Metric.diam`) of pointwise inversion, multiplication, and division of sets in a `SeminormedCommGroup` (and automatically generates the additive counterparts via `@[to_additive]`).

### New declarations
- `ediam_inv` (additive: `ediam_neg`): `ediam s⁻¹ = ediam s`
- `ediam_div_le` (additive: `ediam_sub_le`): `ediam (s / t) ≤ ediam s + ediam t`
- `diam_inv` (additive: `diam_neg`): `diam s⁻¹ = diam s`
- `diam_mul_le` (additive: `diam_add_le`): `diam (s * t) ≤ diam s + diam t` (for bounded sets)
- `diam_div_le` (additive: `diam_sub_le`): `diam (s / t) ≤ diam s + diam t` (for bounded sets)

Tested with all 14 `#lint` linters.

### CODE REVIEW

File: Mathlib/Analysis/Normed/Group/Pointwise.lean [hunk 1]
```diff
@@ -70,15 +70,53 @@ theorem infEDist_inv_inv (x : E) (s : Set E) : infEDist x⁻¹ s⁻¹ = infEDist
...
+  · simp [diam_nonneg]
+  rcases t.eq_empty_or_nonempty with rfl | _
+  · simp [diam_nonneg]
+  have hst : Bornology.IsBounded (s * t) := hs.mul ht
+  have hd_s : ediam s ≠ ⊤ := hs.ediam_ne_top
+  have hd_t : ediam t ≠ ⊤ := ht.ediam_ne_top
+  simp only [diam]
+  rw [← ENNReal.toReal_add hd_s hd_t]
+  have h_le := ediam_mul_le s t
+  exact (ENNReal.toReal_le_toReal hst.ediam_ne_top (ENNReal.add_ne_top.mpr ⟨hd_s, hd_t⟩)).mpr h_le
```
Comment (wwylele) [inline Mathlib/Analysis/Normed/Group/Pointwise.lean]:
```suggestion
  have hd_s : ediam s ≠ ⊤ := hs.ediam_ne_top
  have hd_t : ediam t ≠ ⊤ := ht.ediam_ne_top
  simp only [diam]
  rw [← ENNReal.toReal_add hd_s hd_t]
  exact ENNReal.toReal_mono (ENNReal.add_ne_top.mpr ⟨hd_s, hd_t⟩) (ediam_mul_le s t)
```

File: Mathlib/Analysis/Normed/Group/Pointwise.lean [hunk 2]
```diff
@@ -70,15 +70,53 @@ theorem infEDist_inv_inv (x : E) (s : Set E) : infEDist x⁻¹ s⁻¹ = infEDist
...
+
+@[to_additive]
+theorem diam_div_le {s t : Set E} (hs : Bornology.IsBounded s) (ht : Bornology.IsBounded t) :
+    diam (s / t) ≤ diam s + diam t := by
+  rw [div_eq_mul_inv]
+  have h_diam_inv : diam t⁻¹ = diam t := diam_inv t
+  have key := diam_mul_le hs ht.inv
+  rwa [h_diam_inv] at key
```
Comment (wwylele) [inline Mathlib/Analysis/Normed/Group/Pointwise.lean]:
```suggestion
  grw [div_eq_mul_inv, diam_mul_le hs ht.inv, diam_inv]
```

File: Mathlib/Analysis/Normed/Group/Pointwise.lean [hunk 3]
```diff
@@ -70,15 +70,53 @@ theorem infEDist_inv_inv (x : E) (s : Set E) : infEDist x⁻¹ s⁻¹ = infEDist
...
   (LipschitzOnWith.ediam_image2_le (· * ·) _ _
         (fun _ _ => (isometry_mul_right _).lipschitzWith.lipschitzOnWith) fun _ _ =>
         (isometry_mul_left _).lipschitzWith.lipschitzOnWith).trans_eq <|
     by simp only [ENNReal.coe_one, one_mul]
 
+@[to_additive]
+theorem ediam_div_le (s t : Set E) : ediam (s / t) ≤ ediam s + ediam t := by
+  rw [div_eq_mul_inv]
+  refine (ediam_mul_le s t⁻¹).trans ?_
+  rw [ediam_inv]
```
Comment (wwylele) [inline Mathlib/Analysis/Normed/Group/Pointwise.lean]:
```suggestion
  grw [div_eq_mul_inv, ediam_mul_le, ediam_inv]
```

File: Mathlib/Analysis/Normed/Group/Pointwise.lean [hunk 4]
```diff
@@ -70,15 +70,53 @@ theorem infEDist_inv_inv (x : E) (s : Set E) : infEDist x⁻¹ s⁻¹ = infEDist
 theorem infEDist_inv (x : E) (s : Set E) : infEDist x⁻¹ s = infEDist x s⁻¹ := by
   rw [← infEDist_inv_inv, inv_inv]
 
+@[to_additive (attr := simp)]
+theorem ediam_inv (s : Set E) : ediam s⁻¹ = ediam s := by
+  rw [← image_inv_eq_inv]
+  exact isometry_inv.ediam_image s
```
Comment (wwylele) [inline Mathlib/Analysis/Normed/Group/Pointwise.lean]:
```suggestion
  simpa using isometry_inv.ediam_image s
```
